US05679683
A solution of 4-methylthioimidazo[4,5-f]quinazoline (0.43 g, 2 mmol), 3-bromoaniline (0.5 g, 3 mmol), and 3-bromoaniline hydrochloride (0.63 g, 3 mmol) is heated under reflux for 16 h. The precipitate of hydrochloride salt is converted directly to the free base with aqueous NH3, and recrystallized from EtOH to give 4-(3-bromoanilino)imidazo[4,5-f]quinazoline (0.52 g, 77%). 1H NMR (DMSO) δ11.53 (1H, brs), 8.79 (1H, s), 8.68 (1H, s), 8.53 (1H, dd, J=1.8, 1.9 Hz), 8.15 (1H, d, J=8.8 Hz), 7.81 (1H, brd, J=8.6 Hz), 7.71 (1H, d, J=8.9 Hz, 1H), 7.41 (1H, t, J=8.0 Hz), 7.32 (1H, brd, J=7.8 Hz).

reactant | 4-methylthioimidazo[4,5-f]quinazoline | 2 mmol, 0.43 g | CSC1=C2C(=C3C=NC=NC3=C1)NC=N2 | C10H8N4S
reactant | 3-bromoaniline | 3 mmol, 0.5 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-bromoaniline hydrochloride | 3 mmol, 0.63 g | Cl.BrC=1C=C(N)C=CC1
reactant | NH3 | N | H3N
product | 4-(3-bromoanilino)imidazo[4,5-f]quinazoline | 0.52 g, 77% | BrC=1C=C(NC2=C3C(=C4C=NC=NC4=C2)NC=N3)C=CC1 | C15H10BrN5
